US03981891
Into a 2 liter flask fitted with a 1 meter adiabatic column provided with a metallic lining, are placed: 212 g of 3-cyanomethyl-2-(cis-2-n-pentenyl)-1-cyclopentanone, 512 g of the glycoketal of methylethyl ketone and 2.1 g of para-toluenesulphonic acid. The mass is progressively heated in order to slowly distil the methyl ethyl ketone from the head of the column (temperature of the mass 120°-140°C; temperature of the vapour 77°-79°C). The operation lasts about 9 hours. The mass is then cooled, 10 g of dry sodium carbonate added thereto, stirred for a half-hour and the mass washed to neutrality after diluting with 200 ml of ethyl ether. After distillation of the solvent and rectification of the crude product, there is obtained 229.2 g of 3-cyanomethyl-1,1-ethylenedioxy-2-(cis-2-n-pentenyl)-cyclopentane. The product exhibits the following constants: b.p.0.5 = 130°C, nD15 = 1.4862. The infra-red spectrum had principal bands at: 2240, 1650, 730, 1150, 1115 and 1040 cm-1. NMR Spectrum: 0.95, 4.82, 5.36.

reactant | 3-cyanomethyl-2-(cis-2-n-pentenyl)-1-cyclopentanone | 212 g | C(#N)CC1C(C(CC1)=O)C\C=C/CC | C12H17NO
reactant | para-toluenesulphonic acid | 2.1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | methylethyl ketone | CC(=O)CC | C4H8O
product | 3-cyanomethyl-1,1-ethylenedioxy-2-(cis-2-n-pentenyl)-cyclopentane | 229.2 g | C(#N)CC1C(C2(CC1)OCCO2)C\C=C/CC | C14H21NO2
